US09120749B2
tert-Butyl trans-4-(dimethylamino)cyclohexylcarbamate
To a solution of tert-butyl trans-4-aminocyclohexylcarbamate (750 mg, 3.50 mmol), paraformaldehyde (318 mg, 10.5 mmol), and sodium cyanoborohydride (660 mg, 13.5 mmol) in methanol (30 mL) was added acetic acid (catalytic) and the reaction stirred at room temperature for 18 h. The reaction mixture was quenched with water and the layers were separated. The pH of the aqueous layer was adjusted to 10 using 1 M sodium hydroxide followed by extraction with methylene chloride. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated to afford the desired product (805 mg, 95%) as a white solid: ESI MS m/z 243 [C13H26N2O2+H]+.

reactant | tert-butyl trans-4-aminocyclohexylcarbamate | 3.50 mmol, 750 mg | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | paraformaldehyde | 10.5 mmol, 318 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 13.5 mmol, 660 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 30 mL | CO | CH4O
product | tert-Butyl trans-4-(dimethylamino)cyclohexylcarbamate | 805 mg, 95% | CN([C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C | C13H26N2O2
